US07056932B2
Using an analogous procedure as described in example 11.2 (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(2-hydroxy-phenyl)-4-methyl-pyrazol-1-yl]-acetamide was reacted with ethyl iodoacetate to give (RS)-(2-{1-[(4-cyano-benzylcarbamoyl)-ethoxy-methyl]-4-methyl-1H-pyrazol-3-yl}-phenoxy)-acetic acid ethyl ester. White amorphous solid. MS 477.5 ([M+H]+)

reactant | (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-[3-(2-hydroxy-phenyl)-4-methyl-pyrazol-1-yl]-acetamide | C(#N)C1=CC=C(CNC(C(N2N=C(C(=C2)C)C2=C(C=CC=C2)O)OCC)=O)C=C1 | C22H22N4O3
reactant | ethyl iodoacetate | ICC(=O)OCC | C4H7IO2
product | (RS)-(2-{1-[(4-cyano-benzylcarbamoyl)-ethoxy-methyl]-4-methyl-1H-pyrazol-3-yl}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)C1=NN(C=C1C)C(OCC)C(NCC1=CC=C(C=C1)C#N)=O)=O | C26H28N4O5
